US05371097
To a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (3.0 g) and triethylamine (4.7 ml) in N,N-dimethylformamide (60 ml) was added a methoxyacetyl chloride (0.9 ml) under ice-cooling and the mixture was stirred for 2.5 hours at the same temperature. The reaction mixture was added to water and the mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-(6-methoxyacetylamino-methylpyridin-2-yl)thiazole (0.86 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 3.0 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | methoxyacetyl chloride | 0.9 ml | COCC(=O)Cl | C3H5ClO2
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-(diaminomethyleneamino)-4-(6-methoxyacetylamino-methylpyridin-2-yl)thiazole | 0.86 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1C)NC(COC)=O | C13H16N6O2S
